US04889857
A suspension of 26.4 g of ethyl 2,3,4,5-tetrafluorobenzoylacetate, 18.7 g of 2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholine and 8.4 g of sodium hydrogen carbonate in 130 ml of acetonitrile is refluxed for 7 hours. The reaction mixture is concentrated under reduced pressure, to the obtained residue is added 100 ml of chloroform and the solution is washed with water. After drying over anhydrous magnesium sulfate, the chloroform is distilled off under reduced pressure and the residue is purified by chromatography on silica gel to give 30.0 g of ethyl 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholino]-2,3,5-trifluorobenzoylacetate in 67% yield, as an oily substance.

reactant | ethyl 2,3,4,5-tetrafluorobenzoylacetate | 26.4 g | FC1=C(C(=O)CC(=O)OCC)C=C(C(=C1F)F)F | C11H8F4O3
reactant | 2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholine | 18.7 g | C(C)OC(=O)N(C)CC1CNCCO1 | C9H18N2O3
reactant | sodium hydrogen carbonate | 8.4 g | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 130 ml | C(C)#N | C2H3N
product | ethyl 4-[2-(N-ethoxycarbonyl-N-methylaminomethyl)morpholino]-2,3,5-trifluorobenzoylacetate | 30.0 g, 67% yield | C(C)OC(=O)N(C)CC1OCCN(C1)C1=C(C(=C(C(=O)CC(=O)OCC)C=C1F)F)F | C20H25F3N2O6
